US04962103
trans-1-(p-Methoxybenzyloxycarbonyl)-4-hydroxy-L-proline (5.0 g) was dissolved in 50 ml of methanol and 50 ml of tetrahydrofuran. An ethereal solution of diazomethane was added thereto under ice-cooling until nitrogen gas evolution stopped. The mixture was allowed to stand overnight and distilled to obtain trans-1-(p-methoxy-benzyloxycarbonyl)-4-hydroxy-L-proline methyl ester.

reactant | trans-1-(p-Methoxybenzyloxycarbonyl)-4-hydroxy-L-proline | 5.0 g | COC1=CC=C(COC(=O)N2[C@H](C(=O)O)C[C@H](C2)O)C=C1 | C14H17NO6
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | trans-1-(p-methoxy-benzyloxycarbonyl)-4-hydroxy-L-proline methyl ester | COC([C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)OC)=O | C15H19NO6
